US09446034B2
2-({5-Chloro-2-[(1,3-dimethyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzoic acid
A pressure tube was charged with 2-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid (1.0 g, 3.53 mmol), 1,3-dimethyl-1H-pyrazol-5-amine(0.589 g, 5.30 mmol), (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene (0.330 g, 0.530 mmol), tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3, 0.162 g, 0.177 mmol) and sodium tert-butoxide (0.849 g, 8.83 mmol) in 1,4-dioxane (30 mL). The tube was degassed with N2 and sealed and the reaction mixture was heated in an oil bath at 120° C. for 18 hours. The reaction mixture was evaporated to dryness under high vacuum. The residue was taken back in water solution and the pH was adjusted to ˜4 to 5 using 6.0 N hydrochloride acid. The reaction was concentrated to dryness and the resulting solid was dissolved in MeOH and purified by reverse-phase HPLC to give the title compound as a solid (285 mg, 21% yield). MS: M(C17H16ClN5O2)=357.79, (M+H)+=358, 360.

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid | 3.53 mmol, 1.0 g | ClC1=NC=C(C(=C1)NC1=C(C(=O)O)C=CC=C1)Cl | C12H8Cl2N2O2
reactant | 1,3-dimethyl-1H-pyrazol-5-amine | 5.30 mmol, 0.589 g | CN1N=C(C=C1N)C | C5H9N3
reactant | (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.530 mmol, 0.330 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 8.83 mmol, 0.849 g | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.177 mmol, 0.162 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-({5-Chloro-2-[(1,3-dimethyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzoic acid | 285 mg, 21% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C)C)NC1=C(C(=O)O)C=CC=C1 | C17H16ClN5O2
